US07612211B2
B. (4-tert-butoxycarbonylamino-2′-trifluoromethanesulfonyl-biphenyl-3-yl)-carbamic acid tert-butyl ester
A mixture of [2-tert-butoxycarbonylamino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester (0.213 g, 0.490 mmol), 1-chloro-2-trifluoromethanesulfonyl-benzene (0.100 g, 0.409 mmol), sodium carbonate (0.260 g, 2.45 mmol), and 1,1′-[bis(di-tert-butylphosphino)ferrocene]-palladium dichloride (0.027 g, 0.0409 mmol) in DME (2 mL) and H2O (0.5 mL) was heated at 90° C. for 12 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography (silica, hexanes: EtOAc, 1:1) to afford the title compound as a yellow solid (0.158 g, 75%).

reactant | [2-tert-butoxycarbonylamino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid tert-butyl ester | 0.490 mmol, 0.213 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C22H35BN2O6
reactant | 1-chloro-2-trifluoromethanesulfonyl-benzene | 0.409 mmol, 0.100 g | ClC1=C(C=CC=C1)S(=O)(=O)C(F)(F)F | C7H4ClF3O2S
reactant | sodium carbonate | 2.45 mmol, 0.260 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | H2O | 0.5 mL | O | H2O
product | (4-tert-butoxycarbonylamino-2′-trifluoromethanesulfonyl-biphenyl-3-yl)-carbamic acid tert-butyl ester | 0.158 g, 75% | C(C)(C)(C)OC(NC=1C=C(C=CC1NC(=O)OC(C)(C)C)C1=C(C=CC=C1)S(=O)(=O)C(F)(F)F)=O | C23H27F3N2O6S
